US06169107A
After 2.24 g (23.4 mmol) of guanidine hydrochloride was added to 50 ml of a methanol solution of 1.26 g (23.4 mmol) of sodium methoxide, 0.80 g (2.34 mmol) of benzyl 1-benzyl-5-indolecarboxylate was added to the resulting mixture. The mixture was then stirred for 30 hours while heating at 50 to 60° C. Methanol was distilled off under reduced pressure and the residue was purified by silica gel column chromatography followed by treatment with 2N hydrochloric acid to give 0.08 g (10.4%) of 1-benzyl-5-indoloylguanidine hydrochloride.

reactant | guanidine hydrochloride | 23.4 mmol, 2.24 g | Cl.NC(=N)N
reactant | sodium methoxide | 23.4 mmol, 1.26 g | C[O-].[Na+]
reactant | benzyl 1-benzyl-5-indolecarboxylate | 2.34 mmol, 0.80 g | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C(=O)OCC1=CC=CC=C1 | C23H19NO2
solvent | methanol | 50 ml | CO | CH4O
product | 1-benzyl-5-indoloylguanidine hydrochloride | 0.08 g, 10.4% | Cl.C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)C(=O)NC(=N)N | InChI=1S/C17H16N4O.ClH/c18-17(19)20-16(22)14-6-7-15-13(10-14)8-9-21(15)11-12-4-2-1-3-5-12;/h1-10H,11H2,(H4,18,19,20,22);1H
